US03998822
10 parts by weight of 3,4-diethoxycarbonyl-6-(p-methoxyphenyl)-2-methylpyridine is incorporated into 40 parts by volume of hydrazine hydrate, and the resulting mixture is refluxed for three hours. The precipitated crystals are collected by filtration, washed with ethanol and suspended in 100 parts by volume of water. The mixture is acidified by the addition of acetic acid to obtain 1,2,3,4-tetrahydro-7-(p-methoxyphenyl)-5-methyl-1, 4-dioxopyrido-(3,4-d)pyridazine as colorless fine crystals. A mixture is made of 3.0 parts by weight of the fine crystals, 45 parts by volume of phosphorus oxychloride and 4.5 parts by volume of N,N-dimethylaniline. The mixture is heated at temperatures ranging from 90° to 100° C for three hours. Then, the reaction mixture is left standing at room temperature overnight. The precipitated crystals are collected by filtration, washed with ether, recrystallized from chloroform to obtain the desired compounds melting at 214° to 219° C (decomposition) as pale yellow needles.

reactant | 3,4-diethoxycarbonyl-6-(p-methoxyphenyl)-2-methylpyridine | C(C)OC(=O)C=1C(=NC(=CC1C(=O)OCC)C1=CC=C(C=C1)OC)C | C19H21NO5
reactant | hydrazine hydrate | O.NN
product | 1,2,3,4-tetrahydro-7-(p-methoxyphenyl)-5-methyl-1, 4-dioxopyrido-(3,4-d)pyridazine | COC1=CC=C(C=C1)C1=CC2=C(C(NNC2=O)=O)C(=N1)C | C15H13N3O3
